US09226922B2
(S)-1-(2-Methoxy-1-phenylethyl)-3-(3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (143 mg, 0.245 mmol) and triethylsilane (0.060 mL, 0.376 mmol) were stirred in TFA (2.5 mL) at room temperature for 30 min. Saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification of the residue by flash chromatography (0-10% MeOH-EtOAc) gave (S)-1-(2-methoxy-1-phenylethyl)-3-(3-methoxy-1H-pyrazolo[4,3-c]pyridin-6-yl)urea. MS ESI calc'd. For C12H19N5O3 [M+1]+ 342. found 342. 1H NMR (500 MHz, DMSO-d6) δ 11.98 (s, 1H), 9.08 (s, 1H), 8.55 (s, 1H), 7.96 (br s, 1H), 7.48 (s, 1H), 7.34-7.30 (m, 4H), 7.25-7.21 (m, 1H), 4.98-4.93 (m, 1H), 3.96 (s, 3H), 3.55 (d, J=5.5 Hz, 2H), 3.25 (s, 3H).

reactant | (S)-1-(2-Methoxy-1-phenylethyl)-3-(3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.245 mmol, 143 mg | COC[C@H](C1=CC=CC=C1)NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C36H33N5O3
reactant | triethylsilane | 0.376 mmol, 0.060 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-1-(2-methoxy-1-phenylethyl)-3-(3-methoxy-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | COC[C@H](C1=CC=CC=C1)NC(=O)NC1=CC2=C(C=N1)C(=NN2)OC | C17H19N5O3
